US04824959
A. 4-Formyl-1,5-dioxaspiro[5.5]undecane-2-acetic acid
Ozone was passed through a solution of 4-(1,3-pentadienyl)-1,5-dioxaspiro[5.5]undecane-2-acetic acid (570 mg, 2.0 mmol) in methylene chloride (25 mL) at -78° C. After the solution had attained a blue color, nitrogen was passed through the solution to remove the excess ozone. Dimethyl sulfide (0.5 mL) was added and the solution was concentrated under reduced pressure to afford the title compound as a viscous oil which was used without further purification in the subsequent step.

reactant | Ozone | O=[O+][O-] | O3
reactant | 4-(1,3-pentadienyl)-1,5-dioxaspiro[5.5]undecane-2-acetic acid | 2.0 mmol, 570 mg | C(=CC=CC)C1CC(OC2(O1)CCCCC2)CC(=O)O | C16H24O4
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-Formyl-1,5-dioxaspiro[5.5]undecane-2-acetic acid | C(=O)C1CC(OC2(O1)CCCCC2)CC(=O)O | C12H18O5
